// DAC_4B: 4-bit binary-weighted DAC — full code sweep 0 to 15
simulator lang=spectre
global 0

ahdl_include "dac_binary_clk_4b.va"

parameters vdd=0.9 vth=0.45

// RDY clock: 40ns period, triggers DAC update at center of each code window
Vclk  (rdy  0) vsource type=pulse val0=0 val1=vdd period=40n delay=20n \
        rise=100p fall=100p

// Digital inputs sweep all 16 codes in binary order (code 0 → 15)
// Each bit toggles at the code boundary (100ps before nominal edge for settling)
//
//   DIN3 (MSB): LOW codes 0-7  (t=0-320n), HIGH codes 8-15 (t=320-640n)
//   DIN2:       LOW codes 0-3, HIGH 4-7, LOW 8-11, HIGH 12-15  (80ns blocks)
//   DIN1:       toggles every 2 codes (40ns blocks)
//   DIN0 (LSB): toggles every code (20ns blocks)

Vdin3 (din3 0) vsource type=pwl wave=[ \
        0 0  319.9e-9 0 \
        320e-9 0.9  640e-9 0.9]

Vdin2 (din2 0) vsource type=pwl wave=[ \
        0 0  159.9e-9 0 \
        160e-9 0.9  319.9e-9 0.9 \
        320e-9 0  479.9e-9 0 \
        480e-9 0.9  640e-9 0.9]

Vdin1 (din1 0) vsource type=pwl wave=[ \
        0 0  79.9e-9 0 \
        80e-9 0.9  159.9e-9 0.9 \
        160e-9 0  239.9e-9 0 \
        240e-9 0.9  319.9e-9 0.9 \
        320e-9 0  399.9e-9 0 \
        400e-9 0.9  479.9e-9 0.9 \
        480e-9 0  559.9e-9 0 \
        560e-9 0.9  640e-9 0.9]

Vdin0 (din0 0) vsource type=pwl wave=[ \
        0 0  39.9e-9 0 \
        40e-9 0.9  79.9e-9 0.9  80e-9 0 \
        119.9e-9 0  120e-9 0.9  159.9e-9 0.9  160e-9 0 \
        199.9e-9 0  200e-9 0.9  239.9e-9 0.9  240e-9 0 \
        279.9e-9 0  280e-9 0.9  319.9e-9 0.9  320e-9 0 \
        359.9e-9 0  360e-9 0.9  399.9e-9 0.9  400e-9 0 \
        439.9e-9 0  440e-9 0.9  479.9e-9 0.9  480e-9 0 \
        519.9e-9 0  520e-9 0.9  559.9e-9 0.9  560e-9 0 \
        599.9e-9 0  600e-9 0.9  640e-9 0.9]

// DUT (port order: DIN3 DIN2 DIN1 DIN0 RDY AOUT)
IDUT (din3 din2 din1 din0 rdy aout) dac_binary_clk_4b vref=vdd vth=vth

tran tran stop=660n maxstep=200p
save rdy din3 din2 din1 din0 aout
